US06951879B2
In analogy to example 16.1, Methanesulfonic acid 5-[3-(4-bromo-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-ynyl ester and Dimethylamine were converted to yield {5-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-ynyl}-dimethyl-amine as off-white semisolid, MS: 399 (MH+, 1Br).

reactant | Methanesulfonic acid 5-[3-(4-bromo-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-ynyl ester | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCCCOS(=O)(=O)C | C19H16BrNO3S2
reactant | Dimethylamine | CNC | C2H7N
product | {5-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-ynyl}-dimethyl-amine | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCCCN(C)C | C20H19BrN2S
